US06949652B2
To 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine (5.0 g, 15 mmol) slurried in acetone (50 ml) was added sulfuric acid (850 μl). The resulting slurry was heated to reflux to form a solution and was then cooled and stirred at room temperature for 12 hours and filtered to yield 4.2 grams of 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine p-toluenesulfonate.

reactant | 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine | 15 mmol, 5.0 g | FC1=C(C=C(C=C1)F)C=1N=COC1C=1C=CC=2N(C1)C(=NN2)C(C)C | C18H14F2N4O
reactant | sulfuric acid | 850 μl | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine p-toluenesulfonate | 4.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=C(C=C(C=C1)F)C=1N=COC1C=1C=CC=2N(C1)C(=NN2)C(C)C | InChI=1S/C18H14F2N4O.C7H8O3S/c1-10(2)18-23-22-15-6-3-11(8-24(15)18)17-16(21-9-25-17)13-7-12(19)4-5-14(13)20;1-6-2-4-7(5-3-6)11(8,9)10/h3-10H,1-2H3;2-5H,1H3,(H,8,9,10)
